US07741327B2
A solution of (S)-4-methyl-2-[2-oxo-4-(3-trifluoromethyl-phenoxy)-2,5-dihydro-pyrrol-1-yl]-pentanoic acid [1-((R)-2,2-dimethyl[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide (0.54 g, 1.00 mmol) in dichloromethane (10 mL) and methanol (10 mL) at 25° C. was treated with p-toluenesulfonic acid monohydrate (0.04 g, 0.21 mmol). The reaction was stirred at 25° C. overnight. At this time, the reaction was concentrated in vacuo. The residue was diluted with dichloromethane (50 mL) and was washed with a saturated aqueous sodium bicarbonate solution (1×50 mL), water (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over magnesium sulfate, filtered, rinsed with dichloromethane and concentrated in vacuo. Purification by Analogix flash chromatography (40 g, 1-10% methanol/dichloromethane gradient) afforded (S)-4-methyl-2-[2-oxo-4-(3-trifluoromethyl-phenoxy)-2,5-dihydro-pyrrol-1-yl]-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide (0.38 g, 78%) as a light, yellow solid: HR-ES-MS m/z calculated for C23H27N4O5F3 [M+H]+ 497.2007, observed 497.2007; 1H NMR (400 MHz, DMSO-d6) δ ppm 0.91 (d, J=6.5 Hz, 3H), 0.95 (d, J=6.5 Hz, 3H), 1.36-1.54 (m, 1H), 1.54-1.64 (m, 1H), 1.70-1.84 (m, 1H), 3.22-3.32 (m, 2H), 3.72-3.81 (m, 1H), 3.87 (dd, J=13.6, 7.7 Hz, 1H), 4.09 (dd, J=13.6, 4.0 Hz, 1H), 4.21 (d, J=18.3 Hz, 1H), 4.60 (d, J=18.3 Hz, 1H), 4.70 (t, J=5.6 Hz, 1H), 4.86-4.96 (m, 3H), 6.42 (d, J=2.1 Hz, 1H), 7.54 (d, J=2.1 Hz, 1H), 7.65-7.74 (m, 3H), 7.75 (s, 1H), 10.76 (s, 1H).

reactant | (S)-4-methyl-2-[2-oxo-4-(3-trifluoromethyl-phenoxy)-2,5-dihydro-pyrrol-1-yl]-pentanoic acid [1-((R)-2,2-dimethyl[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide | 1.00 mmol, 0.54 g | CC1(OC[C@H](O1)CN1N=C(C=C1)NC([C@H](CC(C)C)N1C(C=C(C1)OC1=CC(=CC=C1)C(F)(F)F)=O)=O)C | C26H31F3N4O5
reactant | p-toluenesulfonic acid monohydrate | 0.21 mmol, 0.04 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
product | (S)-4-methyl-2-[2-oxo-4-(3-trifluoromethyl-phenoxy)-2,5-dihydro-pyrrol-1-yl]-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide | 0.38 g, 78% | O[C@H](CN1N=C(C=C1)NC([C@H](CC(C)C)N1C(C=C(C1)OC1=CC(=CC=C1)C(F)(F)F)=O)=O)CO | C23H27F3N4O5
